US06620811B2
2-(2-Dimethylamino-ethylamino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and 2-dimethylaminoethylamine. ES-MS m/e (%): 457 (M+H+b , 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-dimethylaminoethylamine | CN(CCN)C | C4H12N2
product | 2-(2-Dimethylamino-ethylamino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | CN(CCNC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1)C | C22H28N6O3S
